US04824958
Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylate.
Ethyl 4,5-dibromo-3-hydroxy-1-phenyl-1H-pyrrole-2-carboxylate (4.0 g, 0.010 moles) is dissolved in DMSO (20 mL) under argon. Potassium tert-butoxide (1.2 g, 0.011 moles) is added, followed after 15 minutes by 2-bromopropane (2.6 g, 0.021 moles), and the mixture is stirred at room temperature. After 24 hours the mixture is stirred into ice water (300 mL) and extracted with CH2Cl2 (3×125 mL). The combined extracts are washed with saturated brine (2×100 mL) and dried over MgSO4. Removal of the solvent under reduced pressure left the product (4.1 g) as an oil, sufficiently pure for further use.

reactant | Ethyl 4,5-dibromo-3-hydroxy-1-phenyl-1H-pyrrole-2-carboxylate | 0.010 moles, 4.0 g | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)OCC)O | C13H11Br2NO3
reactant | Potassium tert-butoxide | 0.011 moles, 1.2 g | CC(C)([O-])C.[K+]
reactant | 2-bromopropane | 0.021 moles, 2.6 g | BrC(C)C | C3H7Br
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylate | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)OCC)OC(C)C | C16H17Br2NO3
